US08648069B2
tert-butyl 3-(bis(tert-butoxycarbonyl)amino)-5-bromo-1H-indazole-1-carboxylate
To 5-bromo-1H-indazol-3-amine (2.00 g, 9.43 mmol) in tetrahydrofuran (20 mL) was added 4-(dimethylamino)pyridine (0.230 g, 1.886 mmol) and di-tert-butyl dicarbonate (6.18 g, 28.3 mmol). The reaction was heated at 50° C. for about 2 hours, cooled to ambient temperature, and concentrated under reduced pressure. The residue was dissolved in diethyl ether (100 mL) and then washed sequentially with 1 N hydrochloric acid (2×25 mL), 1 N sodium hydroxide (2×25 mL) and brine (25 mL). The organic layer was then dried over sodium sulfate, filtered, concentrated under reduced pressure, and dried in a vacuum oven at about 60° C. to afford the title compound. 1H NMR (400 MHz, DMSO-d6) 8.05 (d, J=8.95 Hz, 1H), 7.99 (d, J=1.90 Hz, 1H), 7.81 (dd, J=8.94, 1.89 Hz, 1H), 1.65 (s, 9H), 1.40 (s, 18H). MS (ESI+) m/z 512.2 (M+H)+.

reactant | 5-bromo-1H-indazol-3-amine | 9.43 mmol, 2.00 g | BrC=1C=C2C(=NNC2=CC1)N | C7H6BrN3
reactant | di-tert-butyl dicarbonate | 28.3 mmol, 6.18 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | 4-(dimethylamino)pyridine | 1.886 mmol, 0.230 g | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 3-(bis(tert-butoxycarbonyl)amino)-5-bromo-1H-indazole-1-carboxylate | C(C)(C)(C)OC(=O)N(C1=NN(C2=CC=C(C=C12)Br)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H30BrN3O6
